US05814648
A: 3-tert-Butyldimethylsilyloxy-2-fluorophenol
To a solution of 2-fluorophenol (10.35 g, 9.2 mmol) and tert-butyldimethylsilyl chloride (101 mmol) in DMF (180 ml) was added imidazole (7.54 g, 110 mmol) in one portion. After stirring for 3 h the reaction mixture was poured into water (300 ml) and extracted with diethyl ether (3×100 ml). The combined extracts were washed with 10% aqueous citric acid (100 ml), brine (100 ml), dried (MgSO4) and concentrated under reduced pressure to afford title compound (20.63 g, quant.) as a colorless liquid.

reactant | 2-fluorophenol | 9.2 mmol, 10.35 g | FC1=C(C=CC=C1)O | C6H5FO
reactant | tert-butyldimethylsilyl chloride | 101 mmol | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 110 mmol, 7.54 g | N1C=NC=C1 | C3H4N2
reactant | water | 300 ml | O | H2O
solvent | DMF | 180 ml | CN(C)C=O | C3H7NO
product | 3-tert-Butyldimethylsilyloxy-2-fluorophenol | 20.63 g | [Si](C)(C)(C(C)(C)C)OC=1C(=C(C=CC1)O)F | C12H19FO2Si
